US04032530
3-(Diethylaminoethylmercapto)thiophenol (for Example 13)
A solution of 1.72 g of diethylaminoethyl chloride hydrochloride and 0.54 g of sodium methoxide in 10 cc of methanol and a solution of 2.09 g of potassium carbonate in 10 cc of water are added to 1.42 g of dithioresorcin. After the addition of 10 cc of xylene, the mixture is boiled at reflux for 8 hours. The reaction mixture is subsequently diluted with water and extracted thrice with ethyl acetate. 10% acetic acid is subsequently added to the water phase, until the oily precipitation is complete, extraction is again effected thrice with ethyl acetate, and the ethyl acetate solution is concentrated by evaporation after drying over magnesium sulphate. Bulb tube distillation (bath temperature 135° at 0.5 mm Hg) yields the product as colourless oil which rapidly oxidizes in the air.

reactant | diethylaminoethyl chloride hydrochloride | 1.72 g | Cl.C(C)N(CC)CCCl
reactant | sodium methoxide | 0.54 g | C[O-].[Na+]
reactant | potassium carbonate | 2.09 g | C([O-])([O-])=O.[K+].[K+]
reactant | dithioresorcin | 1.42 g | C1(S)=CC(S)=CC=C1 | C6H6S2
solvent | methanol | 10 cc | CO | CH4O
solvent | water | 10 cc | O | H2O
solvent | xylene | 10 cc | C=1(C(=CC=CC1)C)C | C8H10
product | 3-(Diethylaminoethylmercapto)thiophenol | C(C)N(CC)CCSC=1C=C(C=CC1)S | C12H19NS2
